US07851469B2
N-Cyclopropyl-6-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinamide
As described for Example 38b, 6-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester (100 mg, 0.23 mmol), was converted, using cyclopropylamine (66.14 μL, 0.9 mmol) instead of cyclopropanemethylamine, to the title compound (40 mg, 38%) which was obtained as a white solid. MS: m/e=458.2 [M+H]+.

reactant | 6-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C20H12F4N4O3
reactant | cyclopropylamine | 0.9 mmol, 66.14 μL | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinamide | 40 mg, 38% | C1(CC1)NC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C22H15F4N5O2
